US09359338B2
Step 1: Synthesis of phenyl N-[3-(trifluoromethoxy)phenyl]carbamate
Add 3-(trifluoromethoxy)aniline (1.0 g, 5.65 mmol), pyridine (0.89 g, 11.3 mmol) to DCM (20 mL) and cool to 0° C. Add dropwise phenyl chloroformate (1.15 g, 7.34 mmol). After addition, stir for 1 hr. TLC (PE:EtOAc=3:1) shows the reaction is complete. Add water to the mixture, extract with DCM (10 mL×3), combine the organic layer, wash with 1N HCl solution, brine sequentially, and dry over anhydrous Na2SO4. Concentrate under reduced pressure to get the product (1.50 g, 89%).

reactant | 3-(trifluoromethoxy)aniline | 5.65 mmol, 1.0 g | FC(OC=1C=C(N)C=CC1)(F)F | C7H6F3NO
reactant | pyridine | 11.3 mmol, 0.89 g | N1=CC=CC=C1 | C5H5N
reactant | DCM | 20 mL | C(Cl)Cl | CH2Cl2
reactant | phenyl chloroformate | 7.34 mmol, 1.15 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | phenyl N-[3-(trifluoromethoxy)phenyl]carbamate | 1.50 g, 89% | FC(OC=1C=C(C=CC1)NC(OC1=CC=CC=C1)=O)(F)F | C14H10F3NO3
